US07179823B1
To a mixture of 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-carbaldehyde (14.09 g), ethyl diethylphosphonoacetate (5.88 g), and N,N-dimethylformamide (100 ml), sodium hydride (60%, oily, 1.01 g) was added at 0° C., and the mixture was stirred at room temperature for two hours. The reaction mixture was poured into ice water, and the obtained crystals were collected by filtration, and ethyl(E)-3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]propenoate was obtained (13.91 g, yield: 89%). This was recrystallized from ethyl acetate-hexane. Melting point: 138–139° C.

reactant | 1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-carbaldehyde | 14.09 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)C=O)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C36H30N4O8
reactant | ethyl diethylphosphonoacetate | 5.88 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 1.01 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-[1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyloxy]-1H-pyrazol-4-yl]propenoate | yield: 89% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C=2OC=CC2)C=C1)C | C40H36N4O9
